US08193199B2
Prepared according to Procedure G using N-(4-methoxybenzyl)(2-(2-fluoro-6-methoxyphenyl)-8-methylquinolin-3-yl)methanamine (1.1795 g, 2.8320 mmol, 1 eq) and ammonium cerium(iv) nitrate (5.434 g, 9.912 mmol, 3.5 eq) in CH3CN—H2O (2:1, 13 mL). After purification, (2-(2-fluoro-6-methoxyphenyl)-8-methylquinolin-3-yl)methanamine was obtained as yellow sticky solid. 1H NMR (DMSO-d6) δ ppm 8.41 (1H, s), 7.82 (1H, d, J=7.4 Hz), 7.55-7.60 (1H, m), 7.45-7.54 (2H, m), 7.03 (1H, d, J=8.2 Hz), 6.92-7.00 (1H, m), 3.71 (3H, s), 3.59 (2H, q, J=16.6 Hz), 2.64 (3H, s), 1.88 (2H, br. s.). Mass Spectrum (ESI) m/e=297.1 (M+1).

reactant | N-(4-methoxybenzyl)(2-(2-fluoro-6-methoxyphenyl)-8-methylquinolin-3-yl)methanamine | 2.8320 mmol, 1.1795 g, 1 eq | COC1=CC=C(CNCC=2C(=NC3=C(C=CC=C3C2)C)C2=C(C=CC=C2OC)F)C=C1 | C26H25FN2O2
reactant | ammonium cerium(iv) nitrate | 9.912 mmol, 5.434 g, 3.5 eq | [N+](=O)([O-])[O-].[Ce+4].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | CH3CN—H2O | 13 mL | CC#N.O
product | (2-(2-fluoro-6-methoxyphenyl)-8-methylquinolin-3-yl)methanamine | FC1=C(C(=CC=C1)OC)C1=NC2=C(C=CC=C2C=C1CN)C | C18H17FN2O
